US08039490B2
5-Morpholin-4-yl-pyridine-2-carboxylic acid (4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide
The title compound, MS: m/e=523.2 (M+H+), was prepared in accordance with the general method of example 30A65, step 2 from 5-bromo-pyridine-2-carboxylic acid (4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide and morpholine.

reactant | 5-bromo-pyridine-2-carboxylic acid (4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | FC1=CC=C(C(=O)C2CCN(CC2)CCC2CCC(CC2)NC(=O)C2=NC=C(C=C2)Br)C=C1 | C26H31BrFN3O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-Morpholin-4-yl-pyridine-2-carboxylic acid (4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | FC1=CC=C(C(=O)C2CCN(CC2)CCC2CCC(CC2)NC(=O)C2=NC=C(C=C2)N2CCOCC2)C=C1 | C30H39FN4O3
